US06369110B1
4-(2-Propyl)-5-oxo-5-phenylpentanoic acid (5.50 g, 23.5 mmol) was subjected to hydrogen catalytic reduction at room temperature by the use of 10% palladium-carbon (0.6 g) as catalyst in a mixed solvent of acetic acid (60 ml) and 35% hydrochloric acid (3 ml). The catalyst was filtered off and the filtrate was concentrated under reduced pressure to obtain 4.49 g of 4-(2-propyl)-5-phenylpentanoic acid.

reactant | 4-(2-Propyl)-5-oxo-5-phenylpentanoic acid | 23.5 mmol, 5.50 g | CC(C)C(CCC(=O)O)C(C1=CC=CC=C1)=O | C14H18O3
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 3 ml | Cl | ClH
catalyst | palladium-carbon | 0.6 g | [C].[Pd]
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 4-(2-propyl)-5-phenylpentanoic acid | 4.49 g | CC(C)C(CCC(=O)O)CC1=CC=CC=C1 | C14H20O2
